reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:7](=[C:6])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],20.0948396052017
[C:1]([C@@:2]1([H:11])[O:3][C@:5]2([C:4]([H:12])([H:13])[N:6]2[H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4]([H:12])([H:13])/[C:5](=[N:6]/[H:14])[O:7]1)([H:8])([H:9])[H:10],64.26886470032761
[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[O:4][C:5]1([H:12])[H:13]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[H:8])([C:5]([O:4][H:9])([H:12])[H:13])([H:6])[H:7],82.86852584742459
[C:1]1([H:6])([H:8])[C@:2]([N:3]([H:10])[H:11])([H:9])/[C:4]1=[N:5]/[H:7]>>[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],71.2390569176466
[C:1]([C:2]#[C:3][C@@:4]([C:5]([H:11])([H:12])[H:13])([O:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]1[C@:4]([C:5]([H:11])([H:12])[H:13])([H:10])[O:6]1)([H:7])[H:9].[H:8][H:14],106.554153451257
[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9]>>[N:1]#[C:2][C-:3]1[C:4]([H:7])([H:8])[N+:5]1([H:6])[H:9],60.5507378049296
[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])[H:10].[H:8][H:11],113.73977550315901
[C:1]([C@:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5][C:6]([H:14])([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],3.9737385048297114
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7]>>[C:5](#[N:6])[H:10].[O:1]([C:2]([C:3][O:4][H:11])([H:8])[H:9])[H:7],83.3633941874518
[C:2]1([H:8])=[C:3]([H:9])[C:4]1([C:5](=[O:6])[H:12])[H:11].[O:1]([H:7])[H:10]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],49.840064494200895
[C:1]([C@@:2]1([O:7][C:6](=[C:5]([H:12])[H:13])[H:14])[N:3]([H:11])[O:4]1)([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],54.220883985714586
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([O+:6]=[C-:5][H:14])[H:10])([H:7])([H:8])[H:9],99.1767996121722
[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12]>>[C:1]1([H:7])([H:8])[O:2][C@@:3]12[C:4]([H:9])([H:10])[O+:5]=[C-:6]2.[H:11][H:12],87.39122783269859
[C:1](/[C:2](=[N:4]\[C:5]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10].[C:3]([C:6](=[O:7])[H:18])([H:12])([H:13])[H:14]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10],69.0223080608678
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10].[H:13][H:14]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10],62.6302233876011
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:5](\[O:6][C:3](=[O:4])[H:12])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],49.855274332264614
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[C:5][H:13])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:5]([H:12])([H:13])[C:4]1)([H:6])([H:7])[H:8],94.8869785452676
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](/[N:4]([H:13])[H:14])[C:5]#[N:6])[H:11])([H:7])([H:8])[H:9].[H:10][H:12],102.02151392659901
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1](=[C:2]1[N:3]([H:11])[O:7][C:6]([H:9])([H:14])[C:5]([H:12])([H:13])[O:4]1)([H:8])[H:10],101.50283780318001
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3](/[C:4]([O:5][H:15])=[C:6](/[O:7][H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],67.5370662739799
[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])/[C:5](=[N:6]/[H:13])[C:4]1([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],81.18618856851269
[C:1]([C@@:2]1([H:10])[O:3][C:4]([H:12])([H:13])/[C:5]1=[N:6]/[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],84.9428662486146
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:7](=[C:6])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10],10.52393729514121
[C:1]1([H:8])([H:9])[N:2]([H:10])[C@:3]1([C@@:4]1([H:11])[C:5]([H:12])([H:13])[C-:6]=[O+:7]1)[H:14]>>[C:1]1([H:8])([H:9])[N:2]([H:10])[C@:3]12[C@:4]1([H:11])[C:5]([H:12])([H:13])[C@@:6]2([H:14])[O:7]1,55.40440722124453
